US06740662B1
After the treatment of 4-cyanobutanoic acid with sodium methoxide in methanol, the treated compound was reacted with pivaloyl chloride in THF. Thus obtained compound was reacted with 3-(3-chlorobenzoyl)-2-ethylamino-6-methylpyridine under heating. Then, the compound obtained by usual work-up was reacted in ethanol in the presence of sodium methoxide under heating. Thereafter, the reaction mixture was worked up and purified in a usual manner to obtain 4-(3-chlorophenyl)-3-(2-cyanoethyl)-1-ethyl-7-methyl-1,8-naphthyridin-2(1H)-one as a pale yellow solid. MS: 352.

reactant | 4-cyanobutanoic acid | C(#N)CCCC(=O)O | C5H7NO2
reactant | sodium methoxide | C[O-].[Na+]
reactant | pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 3-(3-chlorobenzoyl)-2-ethylamino-6-methylpyridine | ClC=1C=C(C(=O)C=2C(=NC(=CC2)C)NCC)C=CC1 | C15H15ClN2O
solvent | methanol | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
product | 4-(3-chlorophenyl)-3-(2-cyanoethyl)-1-ethyl-7-methyl-1,8-naphthyridin-2(1H)-one | ClC=1C=C(C=CC1)C1=C(C(N(C2=NC(=CC=C12)C)CC)=O)CCC#N | C20H18ClN3O
